Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Vimpat / Tegretol / carbamazepine
 
Attending: ___.
 
Chief Complaint:
epilepsy 
 
Major Surgical or Invasive Procedure:
___ Left frontoparietal craniotomy for electrode placement 
___ Left anterior temporal lobectomy/hippocampectomy

 
History of Present Illness:
___ y/o male s/p left temporal meningioma resection in ___, s/p 
radiation therpay, complicated by seizure disorder presents for 
elective craniotomy for implantation of electrodes for invasive 
monitoring for epilepsy. 
 
Past Medical History:
- Left frontotemporal meningioma, resected on ___, with a
mild
anomia postoperatively, secondary to a small region of ischemia.
Pathology showed a grade 2 meningioma, MIB-1 12%. S/p radiation 
therapy.                                                        
- Depression
- Epilepsy
- OSA
- HTN
- s/p Tonsillectomy

 
Social History:
___
Family History:
No history of seizures/epilepsy. 
Mother - ___ CA, Father - ___. 
 
Physical Exam:
Upon transfer to neurology service:
Alert, awake. Eyes open to voice. Minimal verbal output except 
"what" when asked to follow command and "thumb" when asked to 
name thumb after speech latency. Regards examiner. PERRL. EOMI. 
R facial droop. +corneals. B/L BTT. Prefers LUE but RUE 
antigravity. ___ at least antigravity. Follows simple midline and 
appendicular commands. Toes down. 

Prior to surgery ___:
He is fully awake alert. 
Oriented 3.  Speech is fluent and prosodic.  Intact
comprehension/naming/repetition.  Eye movements full without
nystagmus.  Facial movement symmetric.  Tongue midline without
dysarthria.  No pronator drift.  

On discharge:
 
Pertinent Results:
___ 04:50AM BLOOD WBC-8.5 RBC-4.29* Hgb-12.8* Hct-38.9* 
MCV-91 MCH-29.8 MCHC-32.9 RDW-13.0 RDWSD-42.7 Plt ___
___ 01:20AM BLOOD WBC-12.7*# RBC-3.82* Hgb-12.0* Hct-35.8* 
MCV-94 MCH-31.4 MCHC-33.5 RDW-13.7 RDWSD-46.2 Plt ___
___ 04:50AM BLOOD Neuts-89* Bands-0 Lymphs-7* Monos-3* 
Eos-0 Baso-0 Atyps-1* ___ Myelos-0 AbsNeut-7.57* 
AbsLymp-0.68* AbsMono-0.26 AbsEos-0.00* AbsBaso-0.00*
___ 04:50AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-1+ Ovalocy-1+
___ 04:50AM BLOOD ___ PTT-23.5* ___
___ 01:20AM BLOOD ___ PTT-26.4 ___
___ 04:50AM BLOOD Glucose-95 UreaN-25* Creat-0.6 Na-137 
K-4.2 Cl-100 HCO3-26 AnGap-15
___ 05:29PM BLOOD Glucose-143* UreaN-16 Creat-0.8 Na-142 
K-4.7 Cl-105 HCO3-24 AnGap-18
___ 04:50AM BLOOD Calcium-9.0 Phos-3.7 Mg-2.0
___ 05:29PM BLOOD Calcium-9.0 Phos-3.4 Mg-1.7

___ MRI Brain:
1. Postsurgical changes with interval decrease in the size of 
the extra-axial
fluid collection underlying the left frontotemporal craniotomy 
site.
2. No evidence of residual or recurrent neoplasm.
3. No new enhancing lesions.

___ MRI Brain:
1. Study is substantially degraded by motion.
2. Postsurgical changes from superficial and deep left temporal 
electrode
placement with mild mass effect on the left lateral ventricle 
and no midline
shift.
3. Stable subcortical high-signal in the left temporal lobe, 
better seen on
the previously performed MRIs.
4. Within limits of study, no definite recurrent or residual 
meningioma
identified.

___ CT Head:
1. The patient is status post left frontal and pterional 
craniotomy with
placement of superficial on parenchymal stroke electrodes 
overlying the left
frontal parietal lobes.
2. Unchanged left frontal and parietal pneumocephalus and 
extra-axial fluid
collection/ postoperative hemorrhage measuring approximately 1.9 
cm in
greatest thickness.  Unchanged mass effect on the left frontal 
lobe with
effacement of the left lateral ventricle without significant 
midline shift. 
The findings are essentially unchanged from postoperative MRI of 
___.
3. Allowing for the extensive metallic artifact from the 
electrodes, no gross
evidence for large infarct or parenchymal hemorrhage.

___ CT Head:
1. Patient is status post left frontotemporal craniotomy and 
anterior temporal
lobectomy.  Pneumocephalus and fluid collection subjacent to the 
left
frontotemporal craniotomy causes mild local mass effect without 
shift of
midline structures.
2. Small amount of subdural hemorrhage is noted along the left 
tentorium.
Small intraventricular hemorrhage is noted in the left lateral 
ventricle
posterior horn.

___ CT Head:
1. Increased subgaleal fluid/air collection overlying the left 
cranial at, now
up to 1.3 cm.
2. Unchanged extra-axial fluid collection deep to the left 
craniotomy.
Decreased pneumocephalus and decreased mass effect on the left 
lateral
ventricle.
3. Unchanged appearance of the left temporal lobectomy bed 
containing fluid.
4. Unchanged hypodensity in the left frontal lobe deep to the 
craniotomy,
corresponding to edema without infarction on the prior from 
earlier today.
5. Unchanged small left subdural hematoma layering along the 
tentorium. 
Resolution of mild interventricular hemorrhage.  No new 
hemorrhage.

___ LENIS:
No evidence of deep venous thrombosis in the right or left lower 
extremity
veins.

___ MRI Brain:
1. Two extra-axial, likely epidural and subdural collections of 
complex fluid
and air deep to the left craniotomy, measuring up to 2 cm 
combined, relatively
unchanged compared to the ___ head CT.  Mild associated 
local mass
effect.  2 x 2 cm area of the edema in the adjacent left frontal 
cortex and
white matter, without acute infarction.
2. Fluid and minimal blood in the left anterior temporal 
surgical cavity.
3. Decreased bifrontal pneumocephalus.  Persistent complex 
subdural fluid
along the left convexity and left anterior falx, as well as the 
left
tentorium.  Stable minimal blood in the left lateral ventricle.

___ MRI Brain:
1. Stable postoperative changes related to left frontotemporal 
craniotomy and
anterior left temporal lobectomy.
2. Stable extra-axial fluid collection along the left frontal 
convexity
exerting mass effect on the underlying brain parenchyma with 
midline shift by
approximately 1 mm.
3. Stable layering hemorrhage /chronic blood products in 
occipital horn of
left lateral ventricle and subdural hematoma along the left 
tentorial leaflet.
4. Stable area of slow diffusion surrounding the temporal 
resection cavity,
likely postoperative ischemia.
5. No new acute intracranial infarct or hemorrhage.

___ BUE dopplers:
No evidence of deep vein thrombosis in the bilateral upper 
extremity veins.

___ CXR
Good PICC placement with termination in the mid SVC
 
Brief Hospital Course:
Mr. ___ was admitted to the neurosurgical service for 
elective surgery. He underwent a left fronto-pareital craniotomy 
for implantation of invasive epilepsy monitoring electrodes. For 
more information on the surgery please refer to the operative 
report. The procedure was well tolerated. He was extubated in 
the OR and transferred to the ICU. Postoperatively, he was noted 
to have expressive aphasia, but was able to follow commands and 
had a slight right facial asymmetry. He moved all extremities 
against gravity, but he preferred the left side to the right. He 
underwent an MRI to confirm lead placement. 

On ___, the patient continued to be aphasic, with more 
difficulty following commands. He continued to have a slight 
right facial asymmetry. NCHCT was obtained which was stable. He 
was treated with a tapering course of IV dexamethasone from 
___ over which time his aphasia improved; he was able to 
spontaneously produce 7 or more words in a sentence and follow 
complex two- and three-step commands, and had intact repetition 
and naming. He also used his RUE and RLE symmetrically with full 
strength on manual motor testing. He was maintained on ancef 
while the electrodes were in place. Due to the aphasia and 
concern for post-operative swelling, he was put on a 
dexamethasone taper on ___ he was decreased by 2mg ever 24 
hours from 10mg. This was discontinued on ___. He had 
leukocytosis on ___ to 14.3; there was concern he had a fever 
but review of nursing documentation reveals no evidence of 
fever. Evaluation for a source of infection was unrevealing; 
given his neurologic examination remained stably improving and 
he remained afebrile, there was low suspicion for surgical wound 
infection or meningitis/encephalitis. The leukocytosis remained 
present until ___ after which it spontaneously resolved, and 
did not recur. The leukocytosis was felt possible a delayed 
reaction to the steroid course.

He was transferred to the neurology service for EEG monitoring. 
His Depakote was weaned off; it was discontinued on ___. His 
lyrica was also weaned off and discontinued on ___. He 
underwent EEG monitoring, and the evidence of cortical 
irritability seen postoperatively improved. He had an 
electrographic seizure without clinical correlate on ___ and 
had an electroclinical seizure on ___ during cortical language 
mapping. Mapping was attempted again ___ but complicated by 
increased EEG activity during stimulation requiring Ativan. He 
was reloaded on his AEDs on ___ and underwent language 
mapping ___. This was successful and showed that speech 
fluency was retained however stimulation of anterior temporal 
pole did lead to an anomia. He was offered the option of 
anterior temporal resection. He went to OR on ___ for depth 
electrode removal and resection. Surgery was uncomplicated and 
he was extubated in the OR. Postoperatively, he was transferred 
to the Neurosurgery service from the Neuromed service.

___: OR today. NRB for pneumo. Lytes checked for bigeminy in 
PACU. Mg repleted. 

___: In PACU patient alert and oriented x 3 with choices. 
Dressing intact. Per ___  okay to transfer to floor and 
mobilize. 

___: poor mental status with stat NCHCT that showed increase in 
subgaleal collection, but otherwise unchanged, per epilepsy 
please add lfts/Depakote, T 102.8 at 1500, pan culture neurology 
attending feels ID should see the patient and start antibiotics. 
CONSULTED ID ___ prelim reccs: aspiration PNA given seizure 
disorder vs CNS infection start vanc/zosyn, LP if not 
contraindicated- they will see formally on ___, neurology c/s 
to assess pt, dressing taken down - incision c/d/I, fluid 
collection under skin.
___: switched Zosyn to ceftazidime. Epilepsy recc'd d/cing 
Keppra. LP done at bedside. At neurology request, MRI brain 
repeated. Upper extremity ultrasounds not done day prior, repeat 
request sent. Infiltrate of Vanco to LUE.

On ___, the patient remained lethargic but had a mildly 
improving exam.  His LP CSF culture was so far negative, as was 
his blood cultures.  He continued to be febrile to 101.8, 
however, his white count was normal.  MRI showed expected 
post-operative changes. Overnight into ___ he was noted to be 
febrile to 102.8 axillary.

On ___ am rounds the patient was much brighter and afebrile. He 
was oriented x 3, moving all extremities with excellent 
strength, although still slightly lethargic. His vancomycin was 
changed to 1.25grams q12h, his depakote level was therapeutic, 
and tylenol was held to assist in monitoring his fever curve. 

On ___ he remained neurologically intact with some consistent 
lethargy. He remained afebrile and his depakote level was 
therapeutic. 

On ___ the patients neurological exam was much improved and he 
was very bright on morning exam. The patient was neurologically 
intact and was not having speech difficulty on exam. The 
patients staples remained clean dry and intact. The patient was 
re-started on Vancomycin and Ceftaz per Epilepsy request for 
preventative CNS coverage for a total of 14 days. He was 
consented for a PICC line in preparation for discharge to rehab. 


On ___, the patient remained stable.  He had a PICC line placed 
for his continued Vancomycin.  He should have a Vancomycin 
trough tomorrow morning.  He will continue on Pregabalin and 
Depakote ER.  He should have a Depakote trough tomorrow morning 
as well.  He will follow up with Dr. ___ week for staples 
removal.  He will follow up with Dr. ___ he ___ 
Clinic in 2 weeks.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Divalproex (EXTended Release) 1500 mg PO BID 
2. Pregabalin 300 mg PO BID 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Artificial Tear Ointment 1 Appl LEFT EYE TID:PRN eye 
irritation 
3. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
4. CefTAZidime 2 g IV Q8H Duration: 11 Days 
5. Docusate Sodium 100 mg PO BID 
6. Erythromycin 0.5% Ophth Oint 0.5 in BOTH EYES QID 
7. Heparin Flush (10 units/ml) 2 mL IV ONCE MR1  For PICC 
insertion  Duration: 1 Dose 
8. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 to 2 tablet(s) by mouth every four (4) 
hours Disp #*20 Tablet Refills:*0
9. Senna 17.2 mg PO QHS 
10. Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush 
11. Vancomycin 1250 mg IV Q 12H Duration: 11 Days 
12. Pregabalin 300 mg PO BID 
RX *pregabalin [Lyrica] 300 mg 1 (One) capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
13. Heparin 5000 UNIT SC BID 
14. Divalproex (EXTended Release) 1000 mg PO Q12H 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Epilepsy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Please keep your incision dry until your sutures/staples are 
removed. 
You may shower at this time but keep your incision dry.
It is best to keep your incision open to air but it is ok to 
cover it when outside. 
Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
No driving while taking any narcotic or sedating medication. 
What You ___ Experience:
You may experience headaches and incisional pain. 
You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
Feeling more tired or restlessness is also common.
Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
Severe pain, swelling, redness or drainage from the incision 
site. 
Fever greater than 101.5 degrees Fahrenheit
Nausea and/or vomiting
Extreme sleepiness and not being able to stay awake
Severe headaches not relieved by pain relievers
Seizures
Any new problems with your vision or ability to speak
Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
Sudden numbness or weakness in the face, arm, or leg
Sudden confusion or trouble speaking or understanding
Sudden trouble walking, dizziness, or loss of balance or 
coordination
Sudden severe headaches with no known reason

 
Followup Instructions:
___